US07723333B2
2-tert-Butyl-4-[(3-phenoxypropyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared as described for Example 24 from (3-phenoxypropyl)amine and 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide. The residue was purified by silica gel column chromatography (Horizons Biotage) using 17-20% EtOAc in hexane as eluent to give the title compound (0.152 g, 73%). 1H NMR (500 MHz CDCl3): δ 7.52-7.47 (m, 2H), 7.44-7.38 (m, 3H), 7.32-7.24 (m, 2H), 6.95 (t, 1H), 6.84 (d, 2H), 5.74 (t, 1H), 3.87 (t, 2H), 3.12-3.04 (m, 2H), 1.86-1.78 (m, 2H), 1.72 (s, 9H); 13C NMR (125 MHz CDCl3): δ 159.8, 158.8, 135.3, 131.8, 129.7, 128.7, 125.3, 121.3, 114.6, 107.2, 65.9, 61.7, 42.5, 29.0, 27.8; Mass Spectrum M+H+ 415.

reactant | (3-phenoxypropyl)amine | O(C1=CC=CC=C1)CCCN | C9H13NO
reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
product | 2-tert-Butyl-4-[(3-phenoxypropyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.152 g, 73% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC1=CC=CC=C1)C1=CC=CC=C1)(=O)=O | C22H26N2O4S
